US04625032
A mixture of 111 mg of 5-fluoro-L-tryptophan, 50 mg of 35% formalin, 0.8 ml of 0.1N sulfuric acid, 0.4 ml of ethanol and 0.3 ml of water is stirred at room temperature for 24 hours. The precipitates are collected by filtration, washed with water and ethanol and then dried. 80 mg of (3S)-6-fluoro-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid are obtained as white powder. Yield: 69%

reactant | 5-fluoro-L-tryptophan | 111 mg | FC1=CC=C2NC=C(C[C@H](N)C(=O)O)C2=C1 | C11H11FN2O2
reactant | formalin | 50 mg | C=O | CH2O
reactant | sulfuric acid | 0.1N, 0.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 0.4 ml | C(C)O | C2H6O
solvent | water | 0.3 ml | O | H2O
product | (3S)-6-fluoro-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 80 mg, Yield: 69% | FC=1C=C2C=3C[C@H](NCC3NC2=CC1)C(=O)O | C12H11FN2O2
